US05476875
A suspension of 13.8 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone is treated with 9.0 g of 1-(phenethyl)-2-thiourea in 150 ml of n-butanol and the mixture is heated to boiling under reflux for 3 hours. After cooling to room temperature, the crystals are filtered under suction and crystallized from n-butanol. There is obtained 3-nitro-5-[2-(phenethylamino)-4-thiazolyl]pyrocatechol hydrobromide of m.p. 249°-251°.

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 13.8 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | 1-(phenethyl)-2-thiourea | 9.0 g | C(CC1=CC=CC=C1)NC(=S)N | C9H12N2S
solvent | n-butanol | 150 ml | C(CCC)O | C4H10O
product | 3-nitro-5-[2-(phenethylamino)-4-thiazolyl]pyrocatechol hydrobromide | Br.[N+](=O)([O-])C1=C(C(O)=CC(=C1)C=1N=C(SC1)NCCC1=CC=CC=C1)O | InChI=1S/C17H15N3O4S.BrH/c21-15-9-12(8-14(16(15)22)20(23)24)13-10-25-17(19-13)18-7-6-11-4-2-1-3-5-11;/h1-5,8-10,21-22H,6-7H2,(H,18,19);1H
